US04031099
a. 1-Ethyl-4-hydroxy-5,6,7,8-tetrahydrocarbostyril
A solution of the ethyl and methyl esters (60:40 ratio) of 2-(N-ethyl-acetamido) cyclohex-1-ene-1-carboxylic acid (10 g; 0.043 mole) in dry dioxan (100 ml) was treated with sodium methoxide (2.54 g; 0.047 mole) and the mixture heated for 2 hrs. at 100° C. A white solid separated within a few minutes. After cooling the precipitate was filtered free of dioxan, taken up in a minimum of water and brought to pH 4 with concentrated hydrochloric acid. The product separated as a white solid which after filtration was recrystallised from glacial acetic acid, m.p. 355° -358° C (d).

reactant | 2-(N-ethyl-acetamido) cyclohex-1-ene-1-carboxylic acid | 0.043 mole, 10 g | C(C)N(C(C)=O)C1=C(CCCC1)C(=O)O | C11H17NO3
reactant | sodium methoxide | 0.047 mole, 2.54 g | C[O-].[Na+]
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Ethyl-4-hydroxy-5,6,7,8-tetrahydrocarbostyril | C(C)N1C(=O)C=C(C=2CCCCC12)O | C11H15NO2
